US07067517B2
Methyl-phenyl-carbamic acid 4-[2-(2-dimethylamino-acetylamino)-ethyl]-phenyl ester
A solution of N,N-dimethylglycine, HCl (0.3 mmol), EDAC (0.36 mmol) and triethylamine (1.0 mmol) in CH2Cl2 (10 mL) was added N-hydroxybenzoetriazole and N-methyl-N-phenyl-carbamic acid 4-(2-amino-ethyl)phenyl ester as its TFA salt (0.3 mmol). The mixture was stirred 16 h at rt and purified by preparative HPLC (Gilson) to give the title compound in 66% yield as an oil.

reactant | EDAC | 0.36 mmol | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 1.0 mmol | C(C)N(CC)CC | C6H15N
reactant | N-methyl-N-phenyl-carbamic acid 4-(2-amino-ethyl)phenyl ester | NCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C16H18N2O2
reactant | TFA | 0.3 mmol | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Methyl-phenyl-carbamic acid 4-[2-(2-dimethylamino-acetylamino)-ethyl]-phenyl ester | 66% yield | CN(CC(=O)NCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)C | C20H25N3O3
